US06444706B2
Preparation of 1-(undecylideneamino)guanidine [C11AG]
1 mol (170.3 g) of undecanal, 1.1 mol (150 g) of aminoguanidine hydrogen carbonate and 1 g of p-toluenesulphonic acid are mixed with 500 ml of toluene and refluxed with stirring. As soon as 2 mol of water have been separated using the water separator, the mixture is allowed to cool, concentrated by rotary evaporation and the dark red oil is taken up in 250 ml of petroleum ether 40/60°. The precipitate formed is filtered and washed again with petroleum ether. For recrystallisation the precipitate is dissolved in ethyl acetate and mixed with petroleum ether at boiling temperature (boiling range 40 to 60° C.) until beginning to turn cloudy. Fine crystals are obtained, m.p. 101° C. The structure and purity of the compound were confirmed by analytical and spectroscopic data.

reactant | undecanal | 1 mol, 170.3 g | C(CCCCCCCCCC)=O | C11H22O
reactant | aminoguanidine hydrogen carbonate | 1.1 mol, 150 g | C(O)(O)=O.NNC(=N)N
reactant | p-toluenesulphonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 2 mol | O | H2O
product | 1-(undecylideneamino)guanidine | C(CCCCCCCCCC)=NNC(=N)N | C12H26N4
